### ISSUE TITLE
simp does not use src within record update

### ISSUE THREAD

**Issue by ammkrn** [leanprover/lean4#1336]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When defining `(t : T)` where T is some structure, `simp` will use the previously declared fields, which is very convenient. However, simp doesn't appear to do this "through" the record update syntax. For example, in the last example below I would have expected simp to close the goal without requiring `[base]` to be explicitly added to the simp set. The output of `set_option trace.compiler.simp true` seems very similar, which leads me to believe the current behavior is unintended.

```
structure Foo where
  a : Sum Nat Char

structure FooExt extends Foo where
  h : 
    match a with
    | .inl n => n < 10
    | .inr c => c = '!'

-- This works fine
example : FooExt := {
  a := Sum.inl 1
  h := by simp
}

def base : Foo := {
  a := Sum.inl 1
}

example : FooExt := {
  base with
  /-
  unsolved goals
  src✝ : Foo := base
  ⊢ match base.a with
    | Sum.inl n => n < 10
    | Sum.inr c => c = Char.ofNat 33
  -/
  h := by simp
  -- Have to explicitly name `base` for simp to discharge the goal
  --h := by simp [base]
}
```

**Expected behavior:** 
`simp` to close the second goal without needing `base` passed by name

**Actual behavior:** 
`simp` fails to discharge the goal

### Versions

leanprover/lean4:nightly-2022-07-18
VScode extension version: v0.0.82
VScode version: 1.68.1

**Comment by leodemoura** [comment]
This is the intended behavior. `simp` will not unfold arbitrary constants during definitional equality tests, only the ones marked as `[reducible]`. 
Note that the example works if we mark `base` as `[reducible]`.

**Comment by ammkrn** [comment]
I see. Thanks for clarifying.
